US06586592B2
Step 5: Preparation of Tert-Butyl 4-[3-amino-4-[(3-fluorophenyl)sulfonyl]Phenyl]-1,4-diazepane-1-carboxylate
A mixture of tert-butyl 4-{4-[(3-fluorophenyl)sulfonyl]-3-nitrophenyl}-1, 4-diazepane-1-carboxylate (58.0 g, 121 mmol) and Pd/C (8.70 g, 15% by wt.) in 1.5 L of a 2:2:1 THF:MeOH:EtOH solvent is exposed to hydrogen gas (25 psi) in a Parr bottle. The pressure of hydrogen is constantly monitored and kept near 25 psi. After 16 h, the mixture is filtered, solids rinsed with MeOH and CH2Cl2, and filtrate concentrated to give a brown solid. The solid is triturated with EtOAc and hexane to give 53.4 g (98%) of the title compound as an off white solid.

reactant | tert-butyl 4-{4-[(3-fluorophenyl)sulfonyl]-3-nitrophenyl}-1, 4-diazepane-1-carboxylate | 121 mmol, 58.0 g | FC=1C=C(C=CC1)S(=O)(=O)C1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C22H26FN3O6S
reactant | MeOH | CO | CH4O
reactant | hydrogen | [H][H] | H2
solvent | THF | 1.5 L | C1CCOC1 | C4H8O
solvent | EtOH | CCO | C2H6O
catalyst | Pd/C | 8.70 g | [Pd] | Pd
product | Tert-Butyl 4-[3-amino-4-[(3-fluorophenyl)sulfonyl]Phenyl]-1,4-diazepane-1-carboxylate | 53.4 g, 98% | NC=1C=C(C=CC1S(=O)(=O)C1=CC(=CC=C1)F)N1CCN(CCC1)C(=O)OC(C)(C)C | C22H28FN3O4S
